US05661108
To the stirred reaction mixture containing the crude 3-(4-nitrophenyl)-6-trifluoromethyluracil (14.5 grams--0.048 mole) from the preceding step was added 13.6 grams (0.096 mole) of methyl iodide and 3.3 grams (0.096 mole) of potassium carbonate. Upon completion of the addition, the reaction mixture was stirred at ambient temperature for about five hours, after which the reaction mixture was poured into water, and the resultant solid was collected by filtration. The solid was washed with petroleum ether and dried, yielding 13.0 grams of 1-methyl-3-(4-nitrophenyl)-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(4-nitrophenyl)-6-trifluoromethyluracil | [N+](=O)([O-])C1=CC=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O | C11H6F3N3O4
reactant | methyl iodide | 0.096 mole, 13.6 grams | CI | CH3I
reactant | potassium carbonate | 0.096 mole, 3.3 grams | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-methyl-3-(4-nitrophenyl)-6-trifluoromethyluracil | 13.0 grams | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C1=CC=C(C=C1)[N+](=O)[O-] | C12H8F3N3O4
